US03997536
3.26 G. of the crude sodium salt of hydroxymethylene-cyanacetaldehyde diethylacetal are dissolved in 20 ml. of water with stirring. 4.51 G. of p-n-propylbenzamidine hydrochloride are added and the resulting solution, which reacts alkaline, is adjusted to pH 4-5 with 1 ml. of 3-N hydrochloric acid. After stirring for 5 minutes, the mixture is concentrated to dryness at 50° C. in vacuo and the residue is left to stand at room temperature with 50 ml. of acetic anhydride for 16 hours. Then, the mixture is heated to 100° C. for 1 hour, evaporated in vacuo and the residue (brown oil, partly crystalline) is taken up in methylene chloride and chromatographed on silica gel. Elution with methylene chloride and methylene chloride/2% acetone yields 5-cyano-2-(4-n-propylphenyl)-pyrimidine, which is recrystallized from acetone/hexane to a constant melting point and then sublimed in a high vacuum at 120° C, whereby there are obtained colorless crystals of said pyrimidine having a melting point of 125.9°-126.0° C, which on cooling are liquid crystalline (monotropic) at 106.4° C.

reactant | sodium | [Na] | Na
reactant | hydroxymethylene-cyanacetaldehyde diethylacetal | C(C)OC(C(C#N)=CO)OCC | C8H13NO3
reactant | p-n-propylbenzamidine hydrochloride | Cl.C(CC)C1=CC=C(C(=N)N)C=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-cyano-2-(4-n-propylphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)CCC | C14H13N3
